US08008298B2
A solution of 3-methoxy-2,2-dimethyl-propionic acid (1.0 g, 7.6 mmol) in thionyl chloride (5 ml) was heated to 50° C. for 16 hours. The reaction mixture was concentrated to a yellow residue and then dissolved in DCM (15 ml). O,N-Dimethyl-hydroxylamine-hydrogen chloride (886 mg, 9.1 mmol) and powdered K2CO3 (2.2 g, 16 mmol) were added, and the reaction mixture was stirred at room temperature for 16 hours. The reaction mixture was filtered through a filter funnel, and the filtrate was collected and concentrated giving a white semisolid. The crude product was purified by silica gel chromatography using 20-50% EtOAc in hexanes as eluant providing 260 mg (20%) of 3,N-dimethoxy-2,2,N-trimethyl-propionamide as a colorless oil.

reactant | 3-methoxy-2,2-dimethyl-propionic acid | 7.6 mmol, 1.0 g | COCC(C(=O)O)(C)C | C6H12O3
reactant | O,N-Dimethyl-hydroxylamine hydrogen chloride | 9.1 mmol, 886 mg | CONC.Cl
reactant | K2CO3 | 16 mmol, 2.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | 3,N-dimethoxy-2,2,N-trimethyl-propionamide | 260 mg, 20% | COCC(C(=O)N(C)OC)(C)C | C8H17NO3
